US05149696
Bromo-N-butyl-N-methyl acetamide
To a solution cooled to -20° C. of 11.9 ml of bromoacetyl bromide in 180 ml of ether there were added 26 g of butylmethylamine in solution in 120 ml of ether and then the temperature returned to 20° C. The mixture was stirred for 30 minutes and diluted with water and extracted with ether. The ether phase was evaporated to dryness under reduced pressure and the 27.4 g of residue were distilled under reduced pressure (0.05 mbar) at 79°/83° C. to obtain 19.36 g of the desired product.

reactant | bromoacetyl bromide | 11.9 ml | BrCC(=O)Br | C2H2Br2O
reactant | butylmethylamine | 26 g | C(CCC)NC | C5H13N
solvent | ether | 180 ml | CCOCC | C4H10O
solvent | ether | 120 ml | CCOCC | C4H10O
solvent | water | O | H2O
product | Bromo-N-butyl-N-methyl acetamide | 19.36 g | BrCC(=O)N(C)CCCC | C7H14BrNO
